US09162979B2
2-(Acetoxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide
TEA (0.29 g, 0.296 mmol) and acetoxyacetyl chloride (0.323 g, 0.00237 mol) are added, at 0° C., to a solution of 2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl]-ethanamine (W2008014821), (0.7 g, 0.00197 mol), in CH2Cl2 (10 mL). It is stirred at RT for 2 h. Then it is poured into water and extracted with CH2Cl2, washed with NaHCO3 s.s., and then with H2O, dried and concentrated. The solid obtained (0.85 g, 95.5%) is used as it is for the next step.

reactant | acetoxyacetyl chloride | 0.00237 mol, 0.323 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl]-ethanamine | 0.00197 mol, 0.7 g | C1(=CC=CC=C1)N1C(=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)CCN)C | C20H22N2O2S
reactant | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(Acetoxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide | C(C)(=O)OCC(=O)NCCC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C | C24H26N2O5S
